US06451821B1
a solution of 0.3 g of tert-butyl N-[(4RS)-4-(1,2,4-triazol-1-yl-methyl)-4,5-dihydro-2-thiazolyl]carbamate in 10 cm3 of 4N hydrochloric acid in dioxane is stirred at a temperature in the region of 20° C. for 34 hours. The reaction medium is filtered and then washed with 3 times 5 cm3 of diethyl ether and dried in a desiccator. 0.14 g of (4RS)-4-(1,2,4-triazol-1-ylmethyl)-4,5-dihydro-2-thiazolylamine dihydrochloride is obtained in the form of a white foam [mass spectrum: EI m/z=184 MH+ m/z=183 M+ m/z=114 C4H6N2+ M/z=101 C3H5N2S+ base peak m/z=36 HCl DCI m/z=184 MH+].

reactant | tert-butyl N-[(4RS)-4-(1,2,4-triazol-1-yl-methyl)-4,5-dihydro-2-thiazolyl]carbamate | 0.3 g | N1(N=CN=C1)CC1N=C(SC1)NC(OC(C)(C)C)=O | C11H17N5O2S
reactant | hydrochloric acid | 4N, 10 cm3 | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (4RS)-4-(1,2,4-triazol-1-ylmethyl)-4,5-dihydro-2-thiazolylamine dihydrochloride | 0.14 g | Cl.Cl.N1(N=CN=C1)CC1N=C(SC1)N | InChI=1S/C6H9N5S.2ClH/c7-6-10-5(2-12-6)1-11-4-8-3-9-11;;/h3-5H,1-2H2,(H2,7,10);2*1H
